US07442794B2
5-Amino-8-fluoro-2-methylquinazoline
The 3,6-difluoroanthranilic acid is heated in 8 ml of acetic acid anhydride for 45 minutes to 100° C. After cooling, the acetic acid that is produced and excess acetic acid anhydride are removed azeotropically with toluene in a vacuum. The residue is mixed with 40 ml of a 25% ammonia solution while being cooled with ice, and it is stirred for 72 hours. It is diluted with water and acidified with acetic acid. It is extracted with ethyl acetate, the organic phase is washed with water, dried on sodium sulfate and concentrated by evaporation. The thus obtained 1.03 g (5.25 mmol) of 5,8-difluoro-2-methyl-3H-quinazolin-4-one and 6 g of phosphorus pentachloride are heated in 20 ml of phosphoryl chloride over 12 hours to 125° C. After cooling, it is poured into saturated NaHCO3 solution and extracted with ethyl acetate. The organic phase is dried, and the solvent is removed. 1.7 g of 4-chloro-5,8-difluoro-2-methylquinazoline, which is dissolved in 60 ml of ethyl acetate and 5 ml of triethylamine, is obtained quantitatively. 600 mg of palladium on carbon is added, and it is shaken for 2 hours (480 ml of hydrogen absorption) under hydrogen atmosphere at normal pressure. Catalyst is removed from the solution by means of filtration on Celite, whereby it was rewashed with 100 ml of ethanol and concentrated by evaporation. After chromatography on silica gel with hexane-ethyl acetate-ethanol (0-40%), 550 mg of 5,8-difluoro-2-methylquinazoline is obtained. 890 mg (13.7 mmol) of sodium azide is added to 240 mg (1.3 mmol) of 5,8-difluoro-2-methylquinazoline, 300 mg (1.13 mmol) of 18-crown-6 in 10 ml of DMF, and the mixture is heated for 8 hours to 125° C. The solvent is removed in a vacuum and chromatographed on silica gel with ethyl acetate, and 52 mg of product is obtained.

reactant | sodium azide | 13.7 mmol, 890 mg | [N-]=[N+]=[N-].[Na+]
reactant | 5,8-difluoro-2-methylquinazoline | 1.3 mmol, 240 mg | FC1=C2C=NC(=NC2=C(C=C1)F)C | C9H6F2N2
reactant | 18-crown-6 | 1.13 mmol, 300 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-Amino-8-fluoro-2-methylquinazoline | 52 mg | NC1=C2C=NC(=NC2=C(C=C1)F)C | C9H8FN3
